US04282246
5-(3-Chlorophenylthio)furan-3-carboxylic Acid
Following the procedure of Example 11, except for use of two 50 ml. quantities of dimethylformamide, 3-chlorothiophenol (4.52 g., 31.4 mmoles) was reacted with 5-bromofuran-3-carboxylic acid to yield crude product (1.9 g.). Recrystallization from hot hexane gave purified 5-(3-chlorophenylthio)furan-3-carboxylic acid (1.0 g., m.p. 98°-102° C., m/e 254).

reactant | 3-chlorothiophenol | 31.4 mmoles, 4.52 g | ClC=1C=C(C=CC1)S | C6H5ClS
reactant | 5-bromofuran-3-carboxylic acid | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3-Chlorophenylthio)furan-3-carboxylic Acid | 1.9 g | ClC=1C=C(C=CC1)SC1=CC(=CO1)C(=O)O | C11H7ClO3S
